datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24],26.3592
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])[H:15])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([H:13])[H:14])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11].[O:5][O:6][H:18],63.1784
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:20])([H:21])[H:22])([c:14]1[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]1[H:28])[H:23],35.9824
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11](=[O:12])[H:15])([H:13])[H:14]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:10]([C:11](=[O:12])[H:15])([H:13])[H:14],-8.95376
[C:0]1([H:6])([H:7])[C:1]([H:8])([H:9])[O:2][C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[O:5]1.[Cl:14]>>[C:0]1([H:7])[C:1]([H:8])([H:9])[O:2][C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[O:5]1.[H:6][Cl:14],0.300152
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][O:30][O:31],213.09112
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[O:3][O:4][H:11])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[O:3])([H:5])([H:6])[H:7].[O:4][H:11],6.276
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([S:10][H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:11])([H:12])[H:13])([S:10][H:15])[H:14],84.0984
[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8].[O:14][O:15]>>[H:8][O:14][O:15].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],162.9668
[C:5]([S:6][H:9])([H:7])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5]([S:6][H:9])([H:7])[H:8].[S:0]=[C:1][S:2][H:4],115.98
[C:0](=[N:1][N:2]([H:5])[H:6])([H:3])[H:4].[H:7]>>[C:0](=[N:1][N:2][H:6])([H:3])[H:4].[H:5][H:7],31.0034
[C:16](#[C:17][H:18])[H:19].[C:1](#[C:2][c:3]1[c:5][c:6]([H:7])[c:8]([H:9])[c:10]([H:11])[c:12]1[H:14])[H:15]>>[C:1](=[C:2]([c:3]1[c:5]([H:19])[c:6]([H:7])[c:8]([H:9])[c:10]([H:11])[c:12]1[C:16]#[C:17][H:18])[H:14])[H:15],13.690048
[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8])[H:16])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:15])([H:13])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][O:8][H:9])[H:16])[H:12])([H:10])[H:11],87.0272
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16],58.576
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:5],54.3502
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([S:8][H:11])([H:9])[H:10]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:7]([S:8][H:11])([H:9])[H:10],101.797
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])[C:5]1([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17],44.183
[C:0](#[C:1][S:2][H:4])[H:3].[C:5](=[C:6]([S:7])[H:10])([H:8])[H:9]>>[C:0](#[C:1][S:2])[H:3].[H:4][S:7][C:6](=[C:5]([H:8])[H:9])[H:10],3.3472
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:13])[H:4].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[H:14])([H:10])([H:11])[H:12],26.3592
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][H:7],18.828
